US06884801B1
2-Nitrobromobenzene (2.02 g) and 2-bromopyrimidine (0.80 g) were coupled as in Example 83, and the product reduced as in Example 64 to give 2-(2-aminophenyl)pyrimidine. This was reacted with CMI under conditions described in the general procedure for CMI couplings to give N-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2-(2-pyrimidinyl)aniline.

reactant | 2-Nitrobromobenzene | 2.02 g | [N+](=O)([O-])C1=C(C=CC=C1)Br | C6H4BrNO2
reactant | 2-bromopyrimidine | 0.80 g | BrC1=NC=CC=N1 | C4H3BrN2
product | 2-(2-aminophenyl)pyrimidine | NC1=C(C=CC=C1)C1=NC=CC=N1 | C10H9N3
